US04381311
a. 2-Bromo-4,5-bis(4-fluorophenyl)thiophene
A solution of 2,3-bis(4-fluorophenyl)thiophene (272 mg, 1 mmole) in 3 ml methylene chloride was diluted with 3 ml glacial acetic acid and cooled to 10°. A solution of 0.5 M bromine in acetic acid (1.1 ml) was added. After 21/2 hours an additional portion of bromine in acetic acid (1.1 ml) was added. After a total rection time of 51/2 hours, the reaction mixture was concentrated in vacuo.

reactant | 2,3-bis(4-fluorophenyl)thiophene | 1 mmole, 272 mg | FC1=CC=C(C=C1)C=1SC=CC1C1=CC=C(C=C1)F | C16H10F2S
reactant | bromine | 0.5 M | BrBr | Br2
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 1.1 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 1.1 ml | C(C)(=O)O | C2H4O2
product | 2-Bromo-4,5-bis(4-fluorophenyl)thiophene | BrC=1SC(=C(C1)C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C16H9BrF2S
